US03987128
A 100 mg sample of 13-fluoro-1,4,7,10-tetraaza-13-phosphatetracyclo[5.5.1.04,13.010,13 ]tridecane was dissolved in 0.5 ml of 1N sodium hydroxide by heating to near boiling. This mixture was cooled, filtered and evaporated. The white residue was then sublimed at 150°-180° and 0.1 mm pressure to give 90 mg of 13-oxo-1,4,7,10-tetraaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane and leaving 10- 20 mg of residue. The sublimate was kept under dry nitrogen and melted at 215°-217° to a clear colorless melt. On exposure to moist air this solid picked up water of hydration without softening. The hydrated sample softened at 90° and slowly lost water up to 160° where the sample frothed and then darkened and totally melted in the range of 200°-210°. The anhydrous sample was used for nmr and mass spectra.

reactant | 13-fluoro-1,4,7,10-tetraaza-13-phosphatetracyclo[5.5.1.04,13.010,13 ]tridecane | FP123N4CCN1CCN3CCN2CC4 | C8H16FN4P
reactant | sodium hydroxide | 1N, 0.5 ml | [OH-].[Na+]
product | 13-oxo-1,4,7,10-tetraaza-13-phosphatricyclo[5.5.1.04,13 ]tridecane | 90 mg | O=P12N3CCN1CCN2CCNCC3 | C8H17N4OP
